US04742072
To 1.2 g of 1-dimethylcarbamoyl-3-t-butyl-5-carboethoxymethylthio-1H-1,2,4-triazole (the compound of Example 2) in 20 ml of THF was added 4 ml of 12M HCl. After stirring for 48 h at 20° C. the reaction mixture was partitioned between ether and water, the ether layer was extracted with dilute NaOH and the resulting aqueous layer was acidified and extracted with fresh ether. The resulting ether layer was dried over magnesium sulfate, filtered and evaporated under vacuum to yield 1-dimethylcarbamoyl-3-t-butyl-5-carboxymethylthio-1H-1,2,4-triazole as an oil.

reactant | 1-dimethylcarbamoyl-3-t-butyl-5-carboethoxymethylthio-1H-1,2,4-triazole | 1.2 g | CN(C(=O)N1N=C(N=C1SCC(=O)OCC)C(C)(C)C)C | C13H22N4O3S
reactant | HCl | 12M, 4 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-dimethylcarbamoyl-3-t-butyl-5-carboxymethylthio-1H-1,2,4-triazole | CN(C(=O)N1N=C(N=C1SCC(=O)O)C(C)(C)C)C | C11H18N4O3S
